US09403835B2
[2-(azetidin-3-ylmethoxy)-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone hydrochloride
A solution of 3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxymethyl]-azetidine-1-carboxylic acid tert-butyl ester (920 mg; 1.8 mmol; 1 eq.) in TFA (5 mL) and DCM (5 mL) was stirred at room temperature for 1 hour and then concentrated in vacuo. The residue was taken up in water, the pH made basic with 5M NaOH and extracted with DCM (2×). The combined organic layer was dried over magnesium sulfate and concentrated in vacuo. Purification by mass directed preparative HPLC afforded the title compound (10 mg, 1%) a yellow gum. 1H NMR (CDCl3) δ 10.56 (s, 1H), 8.82 (s, 1H), 7.50-7.40 (m, 2H), 7.15-7.02 (m, 2H), 5.09 (s, 0.6H), 5.05 (s, 1.4H), 4.83 (s, 1.4H), 4.70 (s, 0.6H), 4.43-4.27 (m, 3H), 3.93-3.78 (m, 1H), 3.21-3.09 (m, 1H), 3.03 (s, 2H), 2.92 (s, 1H), 2.79 (s, 2H), 2.78 (s, 1H). HPLC (max plot) 99.3%, Rt 2.65 min. UPLC/MS: (MS+) 412.4 ([M+H]+).

reactant | 3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxymethyl]-azetidine-1-carboxylic acid tert-butyl ester | 1.8 mmol, 920 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC(C1)COC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C26H30ClN5O4
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | [2-(azetidin-3-ylmethoxy)-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone hydrochloride | 10 mg, 1% | Cl.N1CC(C1)COC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | InChI=1S/C21H22ClN5O2.ClH/c1-12-19(22)13(2)27-20(24-12)16-9-26(10-17(16)25-27)21(28)15-5-3-4-6-18(15)29-11-14-7-23-8-14;/h3-6,14,23H,7-11H2,1-2H3;1H
